US08466282B2
tert-Butyl (3S,5R)-3-{[({2-[(4-methoxybutyl)amino]phenyl}amino) (oxo)acetyl] (2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (9.11 g) was dissolved in acetic acid (50 ml), and the mixture was stirred at 80° C. for 15 hr. The reaction mixture was cooled to room temperature and concentrated under reduced pressure, the residue was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to basic silica gel column chromatography, and a fraction eluted with ethyl acetate was concentrated under reduced pressure to give tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (5.85 g), and a fraction eluted with ethyl acetate-methanol (85:15) was concentrated under reduced pressure to give 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide (580 mg).

reactant | tert-Butyl (3S,5R)-3-{[({2-[(4-methoxybutyl)amino]phenyl}amino) (oxo)acetyl] (2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 9.11 g | COCCCCNC1=C(C=CC=C1)NC(C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C)=O | C32H51N5O7
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 5.85 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C32H49N5O6
